US04360525
(a) 5-chloro-2-fluoro-N-(1-methyl-4-piperidinyl)-benzamide
A mixture of 23.9 g 4-amino-1-methyl-piperidine, 48.5 g 5-chloro-2-fluoro-benzoyl chloride, 44 ml triethylamine and 550 ml benzene is refluxed for 2 hours. Thereafter the solvent is evaporated off in vacuo and the residue is added dropwise under stirring to water. The solution is made alkaline and extracted with toluene. The toluene phase is dried and evaporated. The residue is recrystallised from methylene chloride/ether/petroleum ether to give the heading compound, m.p. 143°-145°.

reactant | 4-amino-1-methyl-piperidine | 23.9 g | NC1CCN(CC1)C | C6H14N2
reactant | 5-chloro-2-fluoro-benzoyl chloride | 48.5 g | ClC=1C=CC(=C(C(=O)Cl)C1)F | C7H3Cl2FO
reactant | triethylamine | 44 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 550 ml | C1=CC=CC=C1 | C6H6
product | 5-chloro-2-fluoro-N-(1-methyl-4-piperidinyl)-benzamide | ClC=1C=CC(=C(C(=O)NC2CCN(CC2)C)C1)F | C13H16ClFN2O
